* C:\Users\Sonu Koli\OneDrive\Desktop\2022eeb1215_analog project\ckt180nm.asc
M24 N005 Vbias1 N012 N005 CMOSP l=180n w=2160n
M25 N012 Vbias2 VOUT N012 CMOSP l=180n w=2160n
M26 VOUT Vbias3 N014 N014 CMOSN l=180n w=1080n
M27 N014 N015 0 0 CMOSN l=180n w=1080n
V3 N005 0 1.8V
C1 VOUT 0 1p
V4 N001 0 1.8V
M2 N003 N003 0 0 CMOSN l=360n w=1800n
M3 vbiasp N003 N006 N006 CMOSN l=360n w=720n
M1 N001 N003 N003 N001 CMOSP l=3600n w=1800n
M5 N006 N006 0 0 CMOSN l=360n w=1800n
M4 N001 vbiasp N006 N001 CMOSP l=360n w=4320n
M7 N004 N008 0 0 CMOSN l=360n w=1800n
M6 N001 N004 N004 N001 CMOSP l=360n w=4320n
M11 N008 N008 N011 N011 CMOSN l=360n w=5400n
M10 N001 vbiasp N008 N001 CMOSP l=360n w=4320n
M9 vbiasp N006 0 0 CMOSN l=360n w=1800n
M8 N001 N004 vbiasp N001 CMOSP l=360n w=4320n
R2 N011 0 5.5K
M12 N002 vbiasp Vbias3 N002 CMOSP l=360n w=4320n
M13 Vbias3 Vbias3 0 0 CMOSN l=360n w=900n
M14 N002 vbiasp Vbias4 N002 CMOSP l=360n w=4320n
M15 Vbias4 Vbias3 N009 N009 CMOSN l=360n w=1800n
M16 N009 Vbias4 0 0 CMOSN l=360n w=1800n
M17 N002 Vbias2 Vbias2 N002 CMOSP l=900n w=3600n
M18 Vbias2 Vbias3 N010 N010 CMOSN l=360n w=1800n
M19 N010 Vbias4 0 0 CMOSN l=360n w=1800n
M20 N002 Vbias1 N007 N002 CMOSP l=360n w=4320n
M22 Vbias1 Vbias3 N013 N013 CMOSN l=360n w=1800n
M23 N013 Vbias4 0 0 CMOSN l=360n w=1800n
V1 N002 0 1.8
M21 N007 Vbias2 Vbias1 N007 CMOSP l=360n w=4320n
V2 N015 0 SINE(597.6m 10m 100K) AC 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sonu Koli\AppData\Local\LTspice\lib\cmp\standard.mos
.inc TSMC180nm.txt
.ac dec 100 1K 1.7Meg
;trans 150u
.backanno
.end
